US07696213B2
2-Amino-6-bromo-8-cyclopentyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one
To a solution of 6-bromo-8-cyclopentyl-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one (0.80 g, 2.16 mmol) in dioxane (5 mL) was added ammonium hydroxide (30%, 2.6 mL). The mixture was then heated at 110° C. in a sealed tube for 30 minutes. The solution was concentrated in vacuo and extracted with ethyl acetate (3×30 mL). The combined organics were washed with saturated aqueous sodium chloride, dried (anhydrous sodium sulfate), filtered and concentrated to dryness to give the title compound as a brown crystalline solid (0.65 g, 93%).

reactant | 6-bromo-8-cyclopentyl-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 2.16 mmol, 0.80 g | BrC1=CC2=C(N=C(N=C2C)S(=O)C)N(C1=O)C1CCCC1 | C14H16BrN3O2S
reactant | ammonium hydroxide | 2.6 mL | [OH-].[NH4+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-6-bromo-8-cyclopentyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.65 g, 93% | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)C2CCCC2)C | C13H15BrN4O
